US07872014B2
To a mixture of methyl 3-hydroxy-2-{[2-(methyloxy)ethyl]oxy}-5-nitrobenzoate (4.4 g, 16.2 mmol), potassium carbonate (4.5 g, 33 mmol) and acetonitrile (100 mL) was added 1-bromo-2-(methyloxy)ethane (2.5 mL, 24 mmol). The resulting mixture was heated at reflux 18 hour. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (200 mL), filtered and concentrated. The residue was then diluted with ethyl acetate (100 mL) and washed with 5% sodium hydroxide solution, water and brine (100 mL each), dried over sodium sulfate, filtered, concentrated, and the residue was chromatographed (silica gel, 30-50% ethyl acetate-hexane) to provide to give methyl 2,3-bis{[2-(methyloxy)ethyl]oxy}-5-nitrobenzoate, (4.9 g, 14.8 mmol, 91% yield). 1H NMR (400 MHz, CDCl3): 8.27-8.26 (d, 1H), 7.92-7.91 (d, 1H), 4.37-4.35 (m, 2H), 4.27-4.25 (m, 2H), 3.94 (s, 3H), 3.83-3.81 (m, 2H), 3.77-3.74 (m, 2H), 3.45 (s, 3H), 3.42 (s, 3H).

reactant | methyl 3-hydroxy-2-{[2-(methyloxy)ethyl]oxy}-5-nitrobenzoate | 16.2 mmol, 4.4 g | OC=1C(=C(C(=O)OC)C=C(C1)[N+](=O)[O-])OCCOC | C11H13NO7
reactant | potassium carbonate | 33 mmol, 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
reactant | 1-bromo-2-(methyloxy)ethane | 24 mmol, 2.5 mL | BrCCOC | C3H7BrO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2,3-bis{[2-(methyloxy)ethyl]oxy}-5-nitrobenzoate | 14.8 mmol, 4.9 g, 91% yield | COCCOC1=C(C(=O)OC)C=C(C=C1OCCOC)[N+](=O)[O-] | C14H19NO8
